US07576135B2
(3S)-5-oxotetrahydro-3-furanylcarbamic acid tert-butyl ester
To a solution of (3S)-(−)-tetrahydro-5-oxo-3-furanylcarbamic acid benzyl ester (3.3 g) in tetrahydrofuran (20 mL) were added di-tert-butyl dicarbonate (4.1 g) and 10% palladium on carbon (0.4 g), followed by stirring for 1 day under hydrogen atmosphere. Any insoluble matter was removed by filtration through a Celite pad, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=4:1), to thereby give the title compound (1.5 g).

reactant | (3S)-(−)-tetrahydro-5-oxo-3-furanylcarbamic acid benzyl ester | 3.3 g | C(C1=CC=CC=C1)OC(N[C@@H]1COC(C1)=O)=O | C12H13NO4
reactant | di-tert-butyl dicarbonate | 4.1 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
catalyst | palladium on carbon | 0.4 g | [Pd] | Pd
product | (3S)-5-oxotetrahydro-3-furanylcarbamic acid tert-butyl ester | 1.5 g | C(C)(C)(C)OC(N[C@@H]1COC(C1)=O)=O | C9H15NO4
